US04791122
4-(2-Chlorophenyl)-1,4-dihydro-2,6-dimethyl-3-nitro-5-phenylpyridine
1.5 g (10 mmol) of 2-chlorobenzaldehyde are boiled with 1.03 g (10 mmol) of nitroacetone, 2.7 g (20 mmol) of phenylacetone and 0.7 g (10 mmol) of ammonium acetate in 20 ml of ethanol overnight. The mixture is concentrated, the residue is taken up in ethyl acetate, and the solution is washed with water, dried and concentrated. The residue from evaporation is purified on a silica gel column using toluene/ethyl acetate 10:1. The fractions containing product are collected and concentrated. The substance crystallizes using ether. It is filtered off with suction and washed with ether. 200 mg of orange-colored crystals, of melting point 232° C., are obtained.

reactant | 2-chlorobenzaldehyde | 10 mmol, 1.5 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | nitroacetone | 10 mmol, 1.03 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | phenylacetone | 20 mmol, 2.7 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | ammonium acetate | 10 mmol, 0.7 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-1,4-dihydro-2,6-dimethyl-3-nitro-5-phenylpyridine | 200 mg | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C1=CC=CC=C1)C)C)[N+](=O)[O-] | C19H17ClN2O2
